US06329389B1
Dimethyl (4-methoxy-2-nitrophenyl)methylidenemalonate
A methanol (125 ml) solution of 4-methoxy-2-nitrobenzaldehyde (21.3 g, described in Org. Synth., volume V, p-139, 1973), dimethyl malonate (16.5 g), piperidine (2.5 ml) and acetic acid (0.25 ml) was heated under reflux for 24 hours. The reaction mixture was concentrated, to which was added 1N hydrochloride, and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% aqueous potassium carbonate solution and a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/2) to obtain the entitled compound (25 g).

reactant | methanol | 125 ml | CO | CH4O
reactant | 4-methoxy-2-nitrobenzaldehyde | 21.3 g | COC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | dimethyl malonate | 16.5 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | piperidine | 2.5 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
product | Dimethyl (4-methoxy-2-nitrophenyl)methylidenemalonate | 25 g | COC1=CC(=C(C=C1)C=C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C13H13NO7
